US08080541B2
Step 3: 2-Cyclopropyl-4-trifluoromethyl-benzoic acid
To a suspension of 485 mg (1.986 mmol) 2-cyclopropyl-4-trifluoromethyl-benzoic acid methyl ester in 8 ml ethanol at room temperature, was added 1.99 ml (3.972 mmol) 2N NaOH. The mixture was heated in a 80° C. oil bath for 30 minutes. The solution was cooled to room temperature and the ethanol was evaporated. The residue was diluted with water, acidified with 2N HCl to pH 2 and dichloromethane was added. The aqueous phase was extracted twice with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified on silica gel (eluent: heptane/ethyl acetate 0 to 100%) to provide 0.197 g (27%) of the title compound as a light yellow solid. MS (m/e): 229.0 (M−H).

reactant | 2-cyclopropyl-4-trifluoromethyl-benzoic acid methyl ester | 1.986 mmol, 485 mg | COC(C1=C(C=C(C=C1)C(F)(F)F)C1CC1)=O | C12H11F3O2
reactant | NaOH | 3.972 mmol, 2N, 1.99 ml | [OH-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2-Cyclopropyl-4-trifluoromethyl-benzoic acid | 0.197 g, 27% | C1(CC1)C1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C11H9F3O2
